US05141930
To a suspension of 13 g of aluminum chloride in 150 ml of methylene chloride was added 4.6 ml of acetyl chloride under ice-cooling and the mixture was stirred for 15 minutes. To the mixture was added a solution of 9.0 g of 4-(4-chlorobutyl)-2,3-dihydrothieno[3,2-f]-1,4-thiazepin-5(4H)-one in 20 ml of methylene chloride and the mixture was stirred at room temperature of 2 hours. Then, the mixture was poured into chilled water and extracted with chloroform. The extract was washed with water, dried over magnesium sulfate and the solvent was distilled off. The resulting crystals were recrystallized from ethyl acetate to give 6.9 g of 7-acetyl-4-(4-chlorobutyl)-2,3-dihydrothieno-[3,2-f]-1,4-thiazepin-5(4H)-one as white crystals, melting at 132°-134° C.

reactant | aluminum chloride | 13 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetyl chloride | 4.6 ml | C(C)(=O)Cl | C2H3ClO
reactant | 4-(4-chlorobutyl)-2,3-dihydrothieno[3,2-f]-1,4-thiazepin-5(4H)-one | 9.0 g | ClCCCCN1CCSC2=C(C1=O)C=CS2 | C11H14ClNOS2
reactant | water | O | H2O
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 7-acetyl-4-(4-chlorobutyl)-2,3-dihydrothieno-[3,2-f]-1,4-thiazepin-5(4H)-one | 6.9 g | C(C)(=O)C1=CC=2C(N(CCSC2S1)CCCCCl)=O | C13H16ClNO2S2
